datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]=[C:18]([S:19][H:21])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:21])([H:8])([H:9])[H:10].[S:17]=[C:18]([S:19])[H:20],1.2552
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17]([C:18](=[C:19]([H:24])[H:25])[C:20]([O:21][H:28])([H:26])[H:27])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][C:17]([C:18](=[C:19]([H:24])[H:25])[C:20]([O:21][H:28])([H:26])[H:27])([H:22])[H:23],83.01056
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[S:17]=[C:18]([S:19][H:21])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:20])([H:8])([H:9])[H:10].[S:17]=[C:18][S:19][H:21],123.872
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:12])[H:20])([H:9])([H:10])[H:11],95.14416
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9],42.09104
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])([H:11])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],23.8488
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([S:12][H:20])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:16])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[S:12][H:20])([H:13])([H:14])[H:15],56.4422
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[H:16])[H:14])([H:12])[H:13],43.932
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:6],15.7737
[C:0](=[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:27])[H:28])[H:26])=[C:10]([C:11]([H:29])([H:30])[H:31])[C:12](=[C:13]([H:33])[H:34])[H:32])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]1([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]([H:24])([H:25])[C:7]([C:8](=[C:9]([H:27])[H:28])[H:26])[C:10]1([C:11]([H:29])([H:30])[H:31])[C:12](=[C:13]([H:33])[H:34])[H:32])[H:16])([H:14])[H:15],72.7179
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:21])[H:22])[H:20])=[C:14]([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:14]([C:11]([C:10](=[C:9]([H:17])[H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])[H:4],28.7441
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:13])([H:14])[H:15])[O:6][O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10],107.5288
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]([c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23])[H:18]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:18])([H:4])([H:5])[H:6].[S:11][c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],-14.2256
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[O:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]=[O:4])([H:5])[H:6].[H:10][O:11],5.811576
[C:5]([C:6](=[S:7])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([C:6](=[S:7])[H:10])([H:8])[H:9].[S:0]=[C:1]([S:2])[H:3],33.472
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:10])([H:8])[H:9],59.7057
